US07763609B2
Following the procedure of Cuccia, S. J.; Fleming, L. B.; France, D. J. Synth. Comm. 2002, 32 (19), 3011-3018: 3-Bromoacetophenone (2.0 g, 10 mmol, 1 eq), was dissolved in 20 mL DCM. A 1.0 N solution of titanium tetrachloride in DCM (20 mL, 20 mmol, 2 eq) was added dropwise over 15 min and the resulting mixture was stirred at 25° C. for 1 h. Bis-trimethylsilylcarbodiimide (5.0 mL, 22 mmol, 2.2 eq) in 5 mL of DCM was added over 15 min and the reaction was stirred for 16 h under argon. The reaction was poured onto 200 mL of an ice/water mixture and extracted with 3×200 mL of DCM. The combined organic phase was dried over MgSO4, filtered, and concentrated to give 2.3 g (100%) of (1-(3-bromophenyl)ethylidene)cyanamide (DB1, R4=Me) as a white solid: 1H NMR (CDCl3) δ 8.16 (t, J=1.8 Hz, 1H), 7.94 (dd, J=1.7, 1.1 Hz, 1H), 7.76 (dd, J=1.7, 1.1 Hz, 1H), 7.38 (t, J=8.0 Hz, 1H), 2.82 (s, 3H).

reactant | 3-Bromoacetophenone | 10 mmol, 2.0 g, 1 eq | CC(=O)C1=CC(=CC=C1)Br | C8H7BrO
reactant | Bis-trimethylsilylcarbodiimide | 22 mmol, 5.0 mL, 2.2 eq | C[Si](C)(C)N=C=N[Si](C)(C)C | C7H18N2Si2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | DCM | 20 mmol, 20 mL, 2 eq | C(Cl)Cl | CH2Cl2
product | (1-(3-bromophenyl)ethylidene)cyanamide | 2.3 g, 100% | BrC=1C=C(C=CC1)C(C)=NC#N | C9H7BrN2
